US09169203B2
Step 2: Synthesis of 2-amino-4-(methylsulfinyl)-N-octylbutanamide.
To a solution of tert-butyl (4-(methylsulfinyl)-1-(octylamino)-1-oxobutan-2-yl)carbamate (6.43 g, 17.1 mmol) in dichloromethane (65 mL) at 0° C. was added TFA (65 mL) and the ice bath was removed. After stirring for 1 hour the reaction was concentrated to give an oil. The oil was purified by silica gel chromatography with 0-10% methanol/dichloromethane (with 15% ammonium hydroxide additive in methanol) to give a white solid (4.5 g, 95%). 1H NMR (500 MHz, DMSO-d6) δ ppm 0.87 (t, J=6.83 Hz, 3 H) 1.19-1.33 (m, 10 H) 1.36-1.47 (m, 2 H) 1.61-1.78 (m, 1 H) 1.84-1.99 (m, 1 H) 2.17-2.38 (m, 1 H) 2.52 (s, 3 H) 2.61-2.72 (m, 1 H) 2.75-2.84 (m, 1 H) 2.99-3.13 (m, 2 H) 3.19-3.29 (m, 1 H) 3.28-3.46 (m, 1 H) 7.89 (br. s., 1 H). m/z 277 (MH+).

reactant | tert-butyl (4-(methylsulfinyl)-1-(octylamino)-1-oxobutan-2-yl)carbamate | 17.1 mmol, 6.43 g | CS(=O)CCC(C(=O)NCCCCCCCC)NC(OC(C)(C)C)=O | C18H36N2O4S
reactant | TFA | 65 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 65 mL | ClCCl | CH2Cl2
product | 2-amino-4-(methylsulfinyl)-N-octylbutanamide | 4.5 g, 95% | NC(C(=O)NCCCCCCCC)CCS(=O)C | C13H28N2O2S
